US08008505B2
58.2 [rac]-2-[2-(4-Chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-N-(4-cyano-2-fluoro-phenyl)-2-cyclohexyl-acetamide
To a stirred solution of [rac]-[2-(4-chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-cyclohexyl-acetic acid methyl ester (250 mg, 0.64 mmol) in dry THF was added LiHMDS (1.0 M solution in THF; 4.5 ml, 4.5 mmol) at −30° C. and stirring continued for another 30 min at that temperature. 4-Amino-3-fluoro-benzonitrile (90.64 mg, 0.768 mmol; CAS Reg. No. 115661-37-5) in THF (1 ml) was then added at that temperature and slowly brought to room temperature. Reaction mixture was then stirred at room temperature for 13 h. TLC shows formation of a new spot. LC-MS of the crude material shows formation of desired product. Reaction mixture was quenched with saturated NH4Cl and the aqueous layer was extracted with EtOAc (3×5 ml). Combined organic layers were washed with brine and concentrated under reduced pressure to give crude material (260 mg); which was then purified by column chromatography [SiO2 (230-400 mesh), EtOAc:hexane 30:70] to give the title compound (130 mg, 42%) as light yellow solid.

reactant | [rac]-[2-(4-chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-cyclohexyl-acetic acid methyl ester | 0.64 mmol, 250 mg | COC(C(C1CCCCC1)C=1N(N=C2CCCCC12)C1=CC=C(C=C1)Cl)=O | C22H27ClN2O2
reactant | LiHMDS | 4.5 mmol, 1.0 M, 4.5 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 4-Amino-3-fluoro-benzonitrile | NC1=C(C=C(C#N)C=C1)F | C7H5FN2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | [rac]-2-[2-(4-Chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-N-(4-cyano-2-fluoro-phenyl)-2-cyclohexyl-acetamide | ClC1=CC=C(C=C1)N1N=C2CCCCC2=C1C(C(=O)NC1=C(C=C(C=C1)C#N)F)C1CCCCC1 | C28H28ClFN4O
